US05258396
A mixture of diethyl 2-(3-(2-fluoro-4-biphenylyl)-2-oxobutyl)malonate (5.00 g, 12.5 mmoles), acetic acid (100 ml), and 30% sulfuric acid (100 ml) was heated under reflux for 4 hours. After cooling the reaction mixture was extracted with ether. The organic layer was washed with water, dried over sodium sulfate and concentrated under reduced pressure The mixture of the residue, ethanol (100 ml) and concentrated sulfuric acid (1.0 g) was heated at 50° C. for 3 hours. The reaction mixture was concentrated under reduced pressure and the residue was extracted with ether. The organic layer was washed successively with water, aqueous sodium bicarbonate and water, dried over sodium sulfate and concentrated under reduced pressure. Purification of the residue by medium pressure silica gel column chromatography gave the desired 5-(2-fluoro-4-biphenylyl)-4-oxohexanoic acid (2.21 g, 6.71 mmoles, yield 54%) as a light yellow oil.

reactant | diethyl 2-(3-(2-fluoro-4-biphenylyl)-2-oxobutyl)malonate | 12.5 mmoles, 5.00 g | FC1=C(C=CC(=C1)C(C(CC(C(=O)OCC)C(=O)OCC)=O)C)C1=CC=CC=C1 | C23H25FO5
reactant | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 5-(2-fluoro-4-biphenylyl)-4-oxohexanoic acid | 6.71 mmoles, 2.21 g, yield 54% | FC1=C(C=CC(=C1)C(C(CCC(=O)O)=O)C)C1=CC=CC=C1 | C18H17FO3
